US07582638B2
To a solution of 4-(2-fluoro-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester (16.3 g, 53 mmol) in dichloromethane (100 mL), add a solution of 4 M HCl in 1,4-dioxane (40 mL, 159 mmol) and stir the reaction mixture at room temperature overnight. Add Et2O to the resultant white suspension and evaporate solvents under reduced pressure to give 12.6 g of (2-fluoro-phenyl)-piperazin-1-yl-methanone hydrochloride. ES+ (m/z) 209[M+H]).

reactant | 4-(2-fluoro-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 53 mmol, 16.3 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)F)=O | C16H21FN2O3
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 159 mmol, 40 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (2-fluoro-phenyl)-piperazin-1-yl-methanone hydrochloride | 12.6 g | Cl.FC1=C(C=CC=C1)C(=O)N1CCNCC1 | InChI=1S/C11H13FN2O.ClH/c12-10-4-2-1-3-9(10)11(15)14-7-5-13-6-8-14;/h1-4,13H,5-8H2;1H
